US06310262B1
3.4. Preparation of (1R,3S,5R)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5- hydroxy-cyclohexyl ester
A solution of 7.45 g of (1R,3R,5S)-2,2-dimethyl-propionic acid 3-acetoxy-5-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl ester and 2.76 g of potassium carbonate in 52 ml of methanol and 24 ml of water was stirred at 22° for 6 h after which time t.l.c. showed completion of the reaction. The mixture was evaporated and the residue partitioned between dichloromethane and water. The organic layer was dried over MgSO4 and evaporated to give 6.49 g of the pure (t.l.c.) title compound as a white solid, m.p. 39-42°. IR (nujol): 3240 m (OH), 1731s (C═O); MS (EI): 273/10 (M-tert-butyl).

reactant | (1R,3R,5S)-2,2-dimethyl-propionic acid 3-acetoxy-5-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl ester | 7.45 g | C(C)(=O)O[C@@H]1C[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)OC(C(C)(C)C)=O | C19H36O5Si
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 52 ml | CO | CH4O
solvent | water | 24 ml | O | H2O
product | (1R,3S,5R)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5- hydroxy-cyclohexyl ester | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](C[C@H](C1)O)OC(C(C)(C)C)=O)(C)C | C17H34O4Si
